US07157447B2
4-Fluoro-2-(2-oxooxazolidin-3-yl)benzonitrile.
A 48 mL pressure vessel containing 2-bromo-4-fluorobenzonitrile (1.00 g, 5.00 mmol), 2-oxazolidone (0.390 g, 4.50 mmol), K2CO3 (0.970 g, 7.0 mmol) and xantphos (0.231 g, 0.40 mmol) in dioxane (10 mL) was degassed with argon for 15 min. Pd2 dba3 (0.140 g, 0.15 mmol) was introduced and then the reaction mixture was heated at 70° C. for 18 h. The mixture was cooled, diluted with dioxane, and then filtered through Celite. The resulting mixture was concentrated in vacuo and subjected to column chromatography on silica gel with hexanes:ethyl acetate (1:1) to (3:7) gradient as the eluent to afford the title compound as a white solid (0.460 g, 50% yield): 1H NMR (400 MHz, CDCl3) δ ppm: 7.73 (1H, dd, J=5.8, 8.6 Hz), 7.43 (1H, dd, J=2.5, 9.6 Hz), 7.11 (1H, ddd, J=2.5, 7.5, 8.7 Hz), 4.60 (2H, t, J=7.1 Hz), 4.29 (2H, t, J=7.1 HJz); LCMS (+ESI, M+H+) m/z 207.

reactant | 2-bromo-4-fluorobenzonitrile | 5.00 mmol, 1.00 g | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
reactant | 2-oxazolidone | 4.50 mmol, 0.390 g | O1[C-]=NC(C1)=O
reactant | K2CO3 | 7.0 mmol, 0.970 g | C(=O)([O-])[O-].[K+].[K+]
reactant | xantphos | 0.40 mmol, 0.231 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.15 mmol, 0.140 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-Fluoro-2-(2-oxooxazolidin-3-yl)benzonitrile | 0.460 g, 50% yield | FC1=CC(=C(C#N)C=C1)N1C(OCC1)=O | C10H7FN2O2
